US05185351
A solution ethyl (E)-3-[2-n-butyl-1-{(trimethylsilyl)ethoxymethyl)-1H-imidazol-5-yl]-2-(5-methyl-2-furyl)methyl-2-propenoate (1.24 g, 3.52 mmol) in ethanol (10 mL) is heated at 60° C. for 3.5 hours with 5N hydrochloric acid solution (20 mL). The cooled reaction is basified with 10% sodium hydroxide solution, extracted with ethyl acetate, washed with water, dried and concentrated. The residue is dissolved in methanol (15 mL), triethylamine (1.5 mL, 10.6 mmol), and di-tert-butyldicarbonate (2.3 g, 10.5 mmol) are added and the mixture is stirred for 18 hours at ambient temperature. The mixture is concentrated in vacuo and chromatographed over silica gel with 4:1 hexane/ethyl acetate to give ethyl (Z)-3-[2-n-butyl-1-t-butoxycarbonyl-1H-imidazol-5-yl]-2-(5-methyl-2-furyl)methyl-2-propenoate as an oil. The (E)-isomer was prepared by the same procedure described for the (Z)-isomer.

reactant | ethyl (E)-3-[2-n-butyl-1-{(trimethylsilyl)ethoxymethyl)-1H-imidazol-5-yl]-2-(5-methyl-2-furyl)methyl-2-propenoate | 3.52 mmol, 1.24 g | C(CCC)C=1N(C(=CN1)/C=C(/C(=O)OCC)\CC=1OC(=CC1)C)COCC[Si](C)(C)C | C24H38N2O4Si
reactant | hydrochloric acid | 5N, 20 mL | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | triethylamine | 10.6 mmol, 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 10.5 mmol, 2.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | ethyl (Z)-3-[2-n-butyl-1-t-butoxycarbonyl-1H-imidazol-5-yl]-2-(5-methyl-2-furyl)methyl-2-propenoate | C(CCC)C=1N(C(=CN1)\C=C(/C(=O)OCC)\CC=1OC(=CC1)C)C(=O)OC(C)(C)C | C23H32N2O5
